US06670364B2
A solution of 5-amino-1,3-dimethylpyrazole-4-carbaldehyde (6.15 g) in ethyl cyanoacetate (10 mL) was stirred at 185° C. for 3 hrs. The reaction mixture was allowed to cool to room temperature. The precipitated solid was filtered, washed with ethyl acetate, and dried under high vacuum to give 6-hydroxy-1,3-dimethylpyrazolo-[5,4-b]pyridin-5-carbonitrile as a white powder.

reactant | 5-amino-1,3-dimethylpyrazole-4-carbaldehyde | 6.15 g | NC1=C(C(=NN1C)C)C=O | C6H9N3O
reactant | ethyl cyanoacetate | 10 mL | C(#N)CC(=O)OCC | C5H7NO2
product | 6-hydroxy-1,3-dimethylpyrazolo-[5,4-b]pyridin-5-carbonitrile | OC1=C(C=C2C(=N1)N(N=C2C)C)C#N | C9H8N4O
